US05155268
N-[2-(1-oxoethyl)phenyl]-N-(methyl)methanesulfonamide, Chart I; Step XI
2'-Acetylmethanesulfonanilide (1.0 g, 4.7 mmol) in 10 ml tetrahydrofuran is reacted with 0.23 g (4.8 mmol) of 50% sodium hydride dispersion in mineral oil at 5° C. for 15 min. Methyl iodide (1.5 g, 10.56 mmol) in 10 ml of dimethylformamide is added over 15 min at 0°-10° C. and stirred in cold for 15 min. Dimethylformamide (10 ml) is added, and the reaction is stirred for 2 days at room temperature. The reaction is taken up into ethyl acetate, the organic layer washed with water, sodium carbonate solution, water, and saturated sodium chloride successively. The dried organic layer is evaporated and the product crystallized from ether-pet. ether; m.p. 98°-99° C.

reactant | 2'-Acetylmethanesulfonanilide | 4.7 mmol, 1.0 g | C(C)(=O)C1=C(NS(=O)(=O)C)C=CC=C1 | C9H11NO3S
reactant | sodium hydride | 4.8 mmol, 0.23 g | [H-].[Na+]
reactant | Methyl iodide | 10.56 mmol, 1.5 g | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[2-(1-oxoethyl)phenyl]-N-(methyl)methanesulfonamide | O=C(C)C1=C(C=CC=C1)N(S(=O)(=O)C)C | C10H13NO3S
